### PR TITLE
Ex13

### PR DESCRIPTION
**Pull request by junemily**

### CODE REVIEW

**Comment by junemily** [comment]
@jjdishere

File: AbstractAlgebraInLean/Lab/lab0.lean [hunk 1]
```diff
@@ -214,6 +214,303 @@ example : 2 + 1 < 5 := by
...
+    apply min_le_right
+    apply min_le_left
+
+example : min a b + c ≤ min (a + c) (b + c) := by
+  apply le_min--通过这个tactic将goal转变为min a b + c ≤ a + c和min a b + c ≤ b + c
+  apply add_le_add_right--先对第一个goal进行证明
+  apply min_le_left--证明min a b + c ≤ b + c
+  apply add_le_add_right
+  apply min_le_right
+import Mathlib.Data.Real.Basic
```
Comment (timechess) [inline AbstractAlgebraInLean/Lab/lab0.lean:298]: 删去重复内容

**Review by timechess — CHANGES_REQUESTED** [review]

**Review by timechess — APPROVED** [review]

File: AbstractAlgebraInLean/Exercise/Ex13.lean [hunk 2]
```diff
@@ -0,0 +1,27 @@
...
+import Mathlib.Init.Function
+-- Suppose G is a group, a is an element in G.
+variable  [Group G] (a : G)
+-- Define f x that equals to a*x.
+def f (x : G) : G := a * x
+-- To prove f is bijective.
+example : (f a).Bijective := by
+  constructor
+  -- To prove f is injective.
+  ·-- f x = f y ,that is a*x = a*y , implies x = y by mul_left_cancel.
```
Comment (timechess) [inline AbstractAlgebraInLean/Exercise/Ex13.lean:12]: -- Suppose we have x y ∈ G, f x = f y,
intro x y h
-- which is a * x = a * y.
rw [f] at h
rw [f] at h
-- Thus we have x = y since we can cancel a in the left.
apply mul_left_cancel h

File: AbstractAlgebraInLean/Exercise/Ex13.lean [hunk 3]
```diff
@@ -0,0 +1,27 @@
...
+    intro x y h
+    rw [f] at h
+    rw [f] at h
+    apply mul_left_cancel h
+
+  --To prove f is surjective.
+  · -- It suffices to show that every b is equal to f a .
+    intro b
```
Comment (timechess) [inline AbstractAlgebraInLean/Exercise/Ex13.lean:20]: intro b
-- f (a⁻¹ * b) = a * (a⁻¹ * b)
use a⁻¹*b
rw [f]
-- = a * a⁻¹ * b
rw [← mul_assoc]
-- = 1 * b = b
rw [mul_right_inv, one_mul]

**Review by timechess — CHANGES_REQUESTED** [review]

**Comment by timechess** [comment]
@junemily 直接用comment即可
